US05767131
3-(4-Cyclohexylpiperidin-1-yl)propionitrile
Acrylonitrile (4.16 mL, 63.1 mmol, 2.50 equiv) was added at 0° C. to a solution of 4-cyclohexylpiperidine (4.20 g, 25.3 mmol, 1.00 equiv) in EtOH (50 mL) and the resulting solution was stirred for 1.5 hours at room temperature. The solvent was removed to give 5.11 g (92%) of white solid, which was characterized spectroscopically and used without purification for the next reaction.

reactant | Acrylonitrile | 63.1 mmol, 4.16 mL, 2.50 equiv | C(C=C)#N | C3H3N
reactant | 4-cyclohexylpiperidine | 25.3 mmol, 4.20 g, 1.00 equiv | C1(CCCCC1)C1CCNCC1 | C11H21N
solvent | EtOH | 50 mL | CCO | C2H6O
product | 3-(4-Cyclohexylpiperidin-1-yl)propionitrile | 5.11 g, 92% | C1(CCCCC1)C1CCN(CC1)CCC#N | C14H24N2
